US06576766B1
(c) 3-(3-Diethoxyphosphoryl-4-formyl-phenyl)propionic Acid Methyl Ester
3-(3-Diethoxyphosphoryl-4-vinyl-phenyl)propionic acid methyl ester (200 mg, 0.61 mmol) was dissolved in 3.9 mL CCl4 and 3.9 mL of MeCN. NaIO4 (388 mg, 1.81 mmol) was dissolved in 6 mL H2O and was added. The mixture was stirred vigorously and RuCl3 (10 mg, 0.05 mmol) was then added and the mixture was stirred for 1 hr at rt The reaction was diluted with DCM, organic layer was separated, dried Na2SO4 and concentrated. The residue was purified by flash column chromatography on silica gel (4/1 EtOAc/hexane, Rf=0.37) to give pure product as an oil, 153 mg (yield 76%).

reactant | 3-(3-Diethoxyphosphoryl-4-vinyl-phenyl)propionic acid methyl ester | 0.61 mmol, 200 mg | COC(CCC1=CC(=C(C=C1)C=C)P(=O)(OCC)OCC)=O | C16H23O5P
reactant | H2O | 6 mL | O | H2O
solvent | CCl4 | 3.9 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | MeCN | 3.9 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(3-Diethoxyphosphoryl-4-formyl-phenyl)propionic Acid Methyl Ester | yield 76% | COC(CCC1=CC(=C(C=C1)C=O)P(=O)(OCC)OCC)=O | C15H21O6P
